US06194396B1
To a solution of tert-butyl N-(3-benzyloxy-2-nitrophenyl)carbamate (3 g) in dimethylformamide (30 ml) was added sodium hydride (60% in oil, 575 mg) under ice-cooling, and the mixture was stirred for 15 minutes. To the mixture was added ethyl iodide (1.49 g), and the mixture was stirred for 2 hours at ambient temperature. To the reaction mixture was added water (150 ml), and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1, v/v) and crystallized with hexane to give tert-butyl N-(3-benzyloxy-2-nitrophenyl)-N-ethylcarbamate (3.36 g).

reactant | tert-butyl N-(3-benzyloxy-2-nitrophenyl)carbamate | 3 g | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C18H20N2O5
reactant | sodium hydride | 575 mg | [H-].[Na+]
reactant | ethyl iodide | 1.49 g | C(C)I | C2H5I
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | tert-butyl N-(3-benzyloxy-2-nitrophenyl)-N-ethylcarbamate | 3.36 g | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)N(C(OC(C)(C)C)=O)CC)[N+](=O)[O-] | C20H24N2O5
